* D-Flip Flop Subcircuit

.include ../spice/tech/TSMC_180nm.txt

* Supply and MOSFET Parameters
.param SUPPLY = 1.8
.option scale=90n

* Voltage Sources
Vdd vdd gnd 'SUPPLY'
Vd d gnd pulse(0 1.8 0 0 0 3n 6n)
Vclk clk gnd pulse(0 1.8 0.1n 0 0 4n 8n)    

M1000 gnd d x Gnd CMOSN w=10 l=2
+  ad=90p pd=38u as=90p ps=38u
M1001 gnd a_137_25# a_218_n4# Gnd CMOSN w=10 l=2
+  ad=90p pd=38u as=90p ps=38u
M1002 a_229_25# clk a_218_n4# Gnd CMOSN w=10 l=2
+  ad=90p pd=38u as=90p ps=38u
M1003 vdd clk a_137_25# w_128_49# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.18n ps=58u
M1004 q a_229_25# vdd w_269_47# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.18n ps=58u
M1005 a_87_26# clk x w_67_18# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.18n ps=58u
M1006 q a_229_25# gnd Gnd CMOSN w=10 l=2
+  ad=90p pd=38u as=90p ps=38u
M1007 a_229_25# a_137_25# vdd w_209_48# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.18n ps=58u
M1008 a_148_n4# clk gnd Gnd CMOSN w=10 l=2
+  ad=90p pd=38u as=90p ps=38u
M1009 a_148_n4# x a_137_25# Gnd CMOSN w=10 l=2
+  ad=90p pd=38u as=90p ps=38u
M1010 a_87_26# d vdd w_67_18# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.18n ps=58u
C0 a_137_25# a_148_n4# 0.16501f
C1 clk a_218_n4# 0.10729f
C2 a_87_26# x 0.13746f
C3 a_137_25# a_229_25# 0.07571f
C4 vdd a_229_25# 0.19716f
C5 vdd a_87_26# 0.19523f
C6 w_209_48# a_229_25# 0.02507f
C7 w_67_18# x 0.01807f
C8 d clk 0.01133f
C9 w_269_47# vdd 0.07131f
C10 w_128_49# clk 0.09606f
C11 w_67_18# vdd 0.07062f
C12 a_218_n4# gnd 0.06873f
C13 q gnd 0.11686f
C14 clk gnd 0.15089f
C15 a_137_25# a_218_n4# 0.09719f
C16 d gnd 0.24321f
C17 clk x 0.30378f
C18 vdd q 0.19523f
C19 d x 0.14109f
C20 clk a_137_25# 0.40596f
C21 vdd clk 0.09816f
C22 w_269_47# a_229_25# 0.02331f
C23 w_128_49# a_137_25# 0.02261f
C24 d vdd 0.07402f
C25 w_67_18# a_87_26# 0.04299f
C26 w_128_49# vdd 0.0738f
C27 x gnd 0.16501f
C28 a_229_25# a_218_n4# 0.06873f
C29 a_137_25# gnd 0.07571f
C30 clk a_148_n4# 0.09719f
C31 a_229_25# q 0.07829f
C32 a_137_25# x 0.10172f
C33 clk a_229_25# 0.09719f
C34 w_269_47# q 0.01842f
C35 a_87_26# clk 0.09719f
C36 vdd a_137_25# 0.29338f
C37 d a_87_26# 0.08635f
C38 w_209_48# a_137_25# 0.09286f
C39 w_209_48# vdd 0.0738f
C40 w_67_18# clk 0.07242f
C41 w_67_18# d 0.10929f
C42 a_148_n4# gnd 0.06873f
C43 a_229_25# gnd 0.0984f
C44 x a_148_n4# 0.08667f
C45 gnd 0 1.34238f ;FLOATING
C46 a_218_n4# 0 0.09772f ;FLOATING
C47 a_148_n4# 0 0.09277f ;FLOATING
C48 x 0 0.52899f ;FLOATING
C49 q 0 0.17001f ;FLOATING
C50 a_229_25# 0 0.49186f ;FLOATING
C51 a_137_25# 0 1.05901f ;FLOATING
C52 clk 0 1.99848f ;FLOATING
C53 a_87_26# 0 0.07037f ;FLOATING
C54 vdd 0 1.10257f ;FLOATING
C55 d 0 0.7066f ;FLOATING
C56 w_269_47# 0 1.48852f ;FLOATING
C57 w_209_48# 0 1.60604f ;FLOATING
C58 w_128_49# 0 1.56686f ;FLOATING
C59 w_67_18# 0 3.01621f ;FLOATING
Cload q gnd 1f

* Transient Analysis
.tran 0.01n 100n

.control
set color0=white
set color1=black

run
let Vd = v(d) + 4
let Vclk = v(clk) + 2
let Vq = v(q)

plot Vd Vclk Vq 

.endc
.end